US05237072
Synthesis of Clonidine (2-(2,6-dichlorophenylamino)-2-imidazoline)
A mixture of 2,6-dichloroaniline (0.162 g, 1 mmol), imidazoline-2-sulfonic acid (0.30 g, 2 mmol) and isobutanol (3 ml) was heated to 125° C. and maintained at this temperature for 16 hours. The mixture was then cooled to room temperature, diluted with CHCl3 (10 ml) and washed twice with 2 ml of aqueous 1 N NaOH. The organic extracts were combined, dried over MgSO4 and concentrated in vacuo to yield a solid which was chromatographed (silica gel, 10:1 CHCl3 /CH3OH saturated with NH3 (g)) to yield 0.147 g (a yield of 64%) of the title compound as a white solid, which was characterized spectroscopically.

reactant | 2,6-dichloroaniline | 1 mmol, 0.162 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | imidazoline-2-sulfonic acid | 2 mmol, 0.30 g | N1C(=NCC1)S(=O)(=O)O | C3H6N2O3S
reactant | isobutanol | 3 ml | C(C(C)C)O | C4H10O
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Clonidine | yield of 64% | C1=CC(=C(C(=C1)Cl)NC2=NCCN2)Cl | C9H9Cl2N3
